US06541668B1
reacting an alkoxide of N-methyl-3-phenyl-3-hydroxypropylamine with 2-fluorotoluene in 1,3-dimethyl-2-imidazolidinone to give N-methyl-3-(2-methylphenoxy)-3-phenylpropylamine;

reactant | N-methyl-3-phenyl-3-hydroxypropylamine | CNCCC(O)C1=CC=CC=C1 | C10H15NO
reactant | 2-fluorotoluene | FC1=C(C=CC=C1)C | C7H7F
solvent | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
product | N-methyl-3-(2-methylphenoxy)-3-phenylpropylamine | CNCCC(C1=CC=CC=C1)OC1=C(C=CC=C1)C | C17H21NO
